US07585885B2
(2R,4R)-4-(4-Methoxy-benzyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (B)
Add lanthanum triflate (3.6 g, 6.16 mmol) to a solution of 2,2,2-trichloro-acetimidic acid 4-methoxybenzyl ester (52.2 g, 185 mmol) and (2R,4R)-4-hydroxypyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (30.2 g, 123 mmol) in toluene (200 mL). Stir 2.5 h, add methanol and concentrate. Dissolve in 25:75 dichloromethane:hexanes, filter away the insolubles and purify filtrate (silica gel chromatography, eluting with dichloromethane/ethyl acetate mixtures) to give the title compound (37.85 g, 84%).

reactant | 2,2,2-trichloro-acetimidic acid 4-methoxybenzyl ester | 185 mmol, 52.2 g | COC1=CC=C(COC(C(Cl)(Cl)Cl)=N)C=C1 | C10H10Cl3NO2
reactant | (2R,4R)-4-hydroxypyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 123 mmol, 30.2 g | COC(=O)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | methanol | CO | CH4O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | lanthanum triflate | 6.16 mmol, 3.6 g | [O-]S(=O)(=O)C(F)(F)F.[La+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | (2R,4R)-4-(4-Methoxy-benzyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 37.85 g, 84% | COC(=O)[C@@H]1N(C[C@@H](C1)OCC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H27NO6
